US04340598
3.1 g of 1-benzyl-5-chloro-2-phenyl-4-cyanomethylimidazole, together with 2.1 g of p-toluenesulfonic acid monohydrate, was boiled in 100 ml of ethanol for 10 hours. The reaction solution was evaporated to dryness under reduced pressure, and the residue was dissolved in 50 ml of chloroform, followed by washing with 50 ml each of a 5% aqueous sodium bicarbonate solution and water to evaporate the chloroform layer to dryness under reduced pressure. The residue was chromatographed on a column of 60 g of silica gel, and eluted with chloroform. The fractions of the objective compound were collected and evaporated to dryness under reduced pressure, followed by dissolving the residue in 2 ml of 20% hydrogen chloride-ethanol. Upon addition of 50 ml of ether, there was obtained 1.5 g of ethyl 1-benzyl-5-chloro-2-phenylimidazole-4-acetate hydrochloride as colorless prisms, m.p. 120°-124° C.

reactant | 1-benzyl-5-chloro-2-phenyl-4-cyanomethylimidazole | 3.1 g | C(C1=CC=CC=C1)N1C(=NC(=C1Cl)CC#N)C1=CC=CC=C1 | C18H14ClN3
reactant | p-toluenesulfonic acid monohydrate | 2.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 1-benzyl-5-chloro-2-phenylimidazole-4-acetate hydrochloride | 1.5 g | Cl.C(C1=CC=CC=C1)N1C(=NC(=C1Cl)CC(=O)OCC)C1=CC=CC=C1 | InChI=1S/C20H19ClN2O2.ClH/c1-2-25-18(24)13-17-19(21)23(14-15-9-5-3-6-10-15)20(22-17)16-11-7-4-8-12-16;/h3-12H,2,13-14H2,1H3;1H
